US07241810B2
Preparation 88: 2-Chloro-N-ethyl-5-hydroxybenzamide
The title compound was prepared from 2-chloro-5-hydroxybenzoic acid and ethylamine, using a method similar to that used for preparation 52, as a colourless solid. 1HNMR (400 MHz, CDCl3) δ: 1.22 (3H, t), 3.42–3.49 (2H, m), 6.48–6.52 (1H, m), 6.80 (1H, dd), 7.13 (1H, d), 7.38 (1H, d); LRMS ESI m/z 200 [M+H]+

reactant | 2-chloro-5-hydroxybenzoic acid | ClC1=C(C(=O)O)C=C(C=C1)O | C7H5ClO3
reactant | ethylamine | C(C)N | C2H7N
product | 2-Chloro-N-ethyl-5-hydroxybenzamide | ClC1=C(C(=O)NCC)C=C(C=C1)O | C9H10ClNO2
